US07459567B2
To a solution of 2,4-dibromo-3-(bromomethyl)thiophene (1.00 g, 3.00 mmol) in EtOH (10 mL) was added a solution of potassium cyanide (0.29 g, 4.5 mmol) in H2O (0.5 mL). The mixture was heated to reflux overnight. The solvent was removed and the residue was partitioned between EtOAc and H2O. The EtOAc was dried (MgSO4) and the solvent removed. The residue was recrystalized from EtOH to yield (2,4-dibromothien-3-yl)acetonitrile (0.72 g, 86%). mp 75.5-77° C.; 1H NMR (500 MHz, DMSO-d6) δ: 3.94 (s, 2H), 7.94 (s, 1H). MS (EI) m/z 279/281/283 (M+.). Anal. Calcd for C6H3Br2NS: C, 25.65; H, 1.08; N, 4.99. Found: C, 26.04; H, 1.18; N, 4.86.

reactant | 2,4-dibromo-3-(bromomethyl)thiophene | 3.00 mmol, 1.00 g | BrC=1SC=C(C1CBr)Br | C5H3Br3S
reactant | potassium cyanide | 4.5 mmol, 0.29 g | [C-]#N.[K+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 0.5 mL | O | H2O
product | (2,4-dibromothien-3-yl)acetonitrile | 0.72 g, 86% | BrC=1SC=C(C1CC#N)Br | C6H3Br2NS
